US07544812B2
A solution of 2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester (0.12 g, 0.281 mmol) in DMF (7 mL) is treated with NaH (60% oil suspension, 0.023 g, 0.575 mmol) and stirred at room temperature under N2 for 20 minutes. The reaction is treated with 2-methoxybenzyl chloride (0.066 g, 0.421 mmol) and then warmed to room temperature and stirred for 3 h. The reaction is quenched with 1 N HCl (10 mL) and worked up extractively with Et2O and water. The organic layer is dried (MgSO4) and the solvent removed in vacuo to afford crude product that is dissolved in ethanol (20 mL) is treated with aqueous 5 N NaOH (1.5 mL) and heated to ref lux 1 h. The reaction mixture is cooled, the solvent removed in vacuo. The resultant residue is acidified with aqueous 1 N HCl (20 mL) and extracted with CH2Cl2. The organic layer is dried (Na2SO4) and the solvent removed in vacuo to afford crude acid that is purified by preparative HPLC to give 0.077 g (53%) of 3-(4-{2-[1-(2-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid. 1H NMR. HRMS (ES+) m/z exact mass calc'd for C30H35N2O6 (M+1) 519.2495. Found m/z 519.2515.

reactant | 2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester | 0.281 mmol, 0.12 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(NC1)=O)C)(OC1=CC=CC=C1)C)=O | C24H30N2O5
reactant | NaH | 0.575 mmol, 0.023 g | [H-].[Na+]
reactant | 2-methoxybenzyl chloride | 0.421 mmol, 0.066 g | COC1=C(CCl)C=CC=C1 | C8H9ClO
reactant | NaOH | 5 N, 1.5 mL | [OH-].[Na+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-(4-{2-[1-(2-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid | 0.077 g, 53% | COC1=C(CN2C(N(C(C2)CCOC2=CC=C(C=C2)CC(C(=O)O)(OC2=CC=CC=C2)C)C)=O)C=CC=C1 | C30H34N2O6
